Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Seroquel
 
Attending: ___
 
Chief Complaint:
Confusion  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ male with a
history of alcoholic cirrhosis (MELD-Na 22, Child Class B) c/b
esophageal varices/SBP/hepatic encephalopathy/hepatorenal
syndrome, ESRD ___ HRS on HD (TThSat), HFpEF (EtOH
cardiomyopathy), and normocytic anemia who presents with
worsening confusion.

Patient's sister (___) says that he seemed 'okay' after
returning from the hospital.  Starting on ___, however, she
noticed that he was having some difficulty walking (wandering
around) with shaking in the upper extremities.  She at first
assumed that it was related to dialysis, but the symptoms
progressed.  Patient was reportedly taking his lactulose and
rifaximin without issue, his sister did notice some liquid 
stools
on ___.  She also says that patient was coughing
intermittently while eating/drinking, though has not complained
of any shortness of breath.  Lastly, patient's sleeping patterns
have been disrupted, sleeping during the day and up at night. 
Given concern for worsening confusion, patient's sister decided
to bring him to the hospital for evaluation/management.

Of note, patient was recently admitted ___
after presenting with worsening confusion.  Trazodone was held. 
He reportedly not been taking his lactulose at home.  Initial
exam was notable for asterixis.  Patient was started on
aggressive lactulose/rifaximin regimen and his confusion 
probably
cleared within 48 hours.  Of note, consultation was also notable
for atrial fibrillation with rapid ventricular response during
dialysis, patient was initiated on propranolol.  Patient does
have a history of paroxysmal A. fib, anticoagulation has been
deferred given his known cirrhosis in addition to history of
small vessel intracranial hemorrhage.

In the ED, initial vitals: 98.1 60 138/54 18 100% RA   

- Exam notable for:  
Gen: Middle-aged appearing man WNWD in NAD, seen sitting
comfortably with girlfriend at bedside
___: CTAB no WRR, unlabored breathing
CV: RRR no MRG
HEENT: Moist mucous membranes, PERRLA, EOMI, mild icteric sclera
Abdomen: Soft NTND, no rebound tenderness
Extremities: FROM in all 4 extremities, 2+ pulses peripherally,
no significant edema. Asterixis present
Skin: Warm, dry and intact
Neuro: No obvious facial abnormalities patient moves all
extremities without difficulties, alert to person and place but
not time or president.

- Labs notable for: 
White blood cell count 4.9, hemoglobin 8.4 (MCV 98), hematocrit
26.1, platelets 101

Sodium 137, potassium 3.6, chloride 98, bicarbonate 22, BUN 59,
creatinine 4.9, glucose 112
Calcium 9.2, magnesium 2.9, phosphorus 4.1

AST 85, ALT 73, alk phos 171, T bili 0.6, albumin 3.8

___ 11.6, PTT 25.8, INR 1.1

Lactate 2.3

VBG ___ 

Urinalysis notable for 30 protein, few bacteria

- Imaging notable for:  
RUQUS
FINDINGS:  
Targeted grayscale ultrasound images were obtained of the 4
quadrants of the abdomen, revealing no ascites. 
IMPRESSION:  
No ascites seen. 

- Pt given:  
___ 00:07 PO/NG Lactulose 30 mL
___ 01:20 PO/NG Rifaximin 550 mg

- Vitals prior to transfer: 97.9 60 137/51 16 99% RA    

Upon arrival to the floor, patient is oriented to self only.  He
denies any pain or other discomfort.  Unable to perform 10-point
ROS given patient cooperation.  
 
 
Past Medical History:
-Childs B-C alcohol cirrhosis c/b ascites, HE, and esophageal
varices
-Alcohol cardiomyopathy
-Alcohol use disorder  
-Admission ___ with HE, course complicated by ___ (Cr 
peaked in mid 5s) due to over-diuresis
 
Social History:
___
Family History:
Mother with ovarian cancer, diabetes
Brother with colon cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
=======================
VITALS: 97.6 143/77 73 16 98 Ra   
General: AOx1, otherwise pleasant and able to follow simple
commands.  
HEENT: Sclerae anicteric, MMM, oropharynx clear.  EOMI, PERRL.  
Neck: No JVP elevation.
CV: Regular rate and rhythm, normal S1 + S2, ___ systolic murmur
best heard at the ___, no rubs or gallops.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi.  Mildly decreased breath sounds at the R base.  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding.  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: AOx1.  CNII-XII intact.  Moving all four extremities
equally and with purpose.  +Asterixis. 

DISCHARGE PHYSICAL EXAM:  
======================= 
VITALS:24 HR Data (last updated ___ @ 719)
    Temp: 98.0 (Tm 98.4), BP: 120/50 (90-142/49-69), HR: 77 
(62-77), RR: 18 (___), O2 sat: 100% (___), O2 delivery: Ra  
 
General: AOx1, otherwise pleasant and able to follow simple
commands.  
HEENT: Sclerae anicteric, MMM, oropharynx clear.  EOMI, PERRL.  
Neck: No JVP elevation.
CV: Regular rate and rhythm, normal S1 + S2, ___ systolic murmur
best heard at the ___, no rubs or gallops.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi.  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding.  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: AAOx3, able to recite days of the week backwards, no 
asterixis. Moving all four extremities. gait wnl
 
Pertinent Results:
ADMISSION LABS
===============

___ 09:12PM BLOOD WBC-4.9 RBC-2.66* Hgb-8.4* Hct-26.1* 
MCV-98 MCH-31.6 MCHC-32.2 RDW-16.9* RDWSD-58.8* Plt ___
___ 09:12PM BLOOD Neuts-66.8 Lymphs-16.9* Monos-12.4 
Eos-3.1 Baso-0.4 Im ___ AbsNeut-3.27 AbsLymp-0.83* 
AbsMono-0.61 AbsEos-0.15 AbsBaso-0.02
___ 09:12PM BLOOD ___ PTT-25.8 ___
___ 09:12PM BLOOD Glucose-112* UreaN-59* Creat-4.9* Na-137 
K-3.6 Cl-98 HCO3-22 AnGap-17
___ 09:12PM BLOOD ALT-73* AST-85* AlkPhos-171* TotBili-0.6
___ 09:12PM BLOOD Albumin-3.8 Calcium-9.2 Phos-4.1 Mg-2.9*
___ 10:03PM BLOOD pO2-67* pCO2-28* pH-7.50* calTCO2-23 Base 
XS-0
___ 09:28PM BLOOD Lactate-2.3*
___ 10:03PM BLOOD O2 Sat-91

DISCHARGE LABS
===============
___ 08:30AM BLOOD WBC-5.9 RBC-2.51* Hgb-7.8* Hct-24.1* 
MCV-96 MCH-31.1 MCHC-32.4 RDW-19.3* RDWSD-67.5* Plt ___
___ 08:30AM BLOOD Neuts-65.4 Lymphs-17.9* Monos-12.3 
Eos-3.4 Baso-0.7 Im ___ AbsNeut-3.88 AbsLymp-1.06* 
AbsMono-0.73 AbsEos-0.20 AbsBaso-0.04
___ 08:30AM BLOOD ___ PTT-27.9 ___
___ 08:30AM BLOOD Glucose-125* UreaN-48* Creat-5.3* Na-137 
K-3.7 Cl-97 HCO3-22 AnGap-18
___ 08:30AM BLOOD ALT-81* AST-110* LD(LDH)-236 AlkPhos-134* 
TotBili-1.0
___ 08:30AM BLOOD Calcium-9.5 Phos-4.3 Mg-2.6

OTHER PERTINENT LABS
=====================
___ 10:03PM BLOOD pO2-67* pCO2-28* pH-7.50* calTCO2-23 Base 
XS-0
___ 10:25AM BLOOD Type-ART Temp-36.7 pO2-105 pCO2-26* 
pH-7.61* calTCO2-27 Base XS-6 Intubat-NOT INTUBA
___ 12:55PM BLOOD Type-ART pO2-249* pCO2-31* pH-7.54* 
calTCO2-27 Base XS-5 Comment-GREEN TOP
___ 07:10AM BLOOD Hapto-14*

IMAGING/STUDIES
=============== 
___ Imaging CTA ABD W&W/O C & RECON 
IMPRESSION:   
1. Liver morphology is consistent with cirrhosis. No evidence of 
focal 
hepatic lesions that meet OPTN criteria for hepatocellular 
carcinoma. 
2. Stable appearance of portal systemic shunts including 
esophageal, 
paraesophageal and periportal varices suggesting portal venous 
hypertension. 
3. No evidence of ascites. 

___ Imaging CT HEAD W/O CONTRAST 
FINDINGS:    
There is no intra-axial or extra-axial hemorrhage, mass, midline 
shift, or 
acute major vascular territorial infarct.  Scattered subcortical 
white matter hypodensities are nonspecific though likely sequela 
of chronic small vessel disease.  Ventricles and sulci are 
prominent compatible with global volume loss.  Atherosclerotic 
calcifications noted within the intracranial ICAs. 
  
Included paranasal sinuses and mastoids are clear. Skull and 
extracranial soft tissues are unremarkable. 

 
Brief Hospital Course:
Patient is a ___ male with a history of alcoholic
cirrhosis (MELD-Na ___, Child Class B) c/b esophageal
varices/SBP/hepatic encephalopathy/hepatorenal syndrome, ESRD 
___
HRS on HD (TThSat), HFpEF (EtOH cardiomyopathy), and normocytic
anemia who presented with worsening confusion, concerning for
recurrent hepatic encephalopathy which improved with lactulose 
administration.

ACUTE/ACTIVE PROBLEMS:
====================

# Encephalopathy 
# EtOH cirrhosis (MELD-Na 22, Child Class B) c/b EV/SBP/HE/HRS-
Patient presented with worsening confusion over 48hrs, after
recent hospitalization for hepatic encephalopathy treated with
increased lactulose. On admission patient found to have 
asterixis and was alert and oriented to person but not place or 
time. No known trigger given negative infectious work up with 
CXR wnl, UA clean, cultures negative. Flu swab negative on 
previous admission. Patient was on Cipro prophylaxis for SBP and 
there was no ascites to tap. Patient did not have any focal 
neurologic deficits to suggest intracranial bleeding as a cause 
of AMS, despite history of ICH and suspicion for cerebral 
amyloid
angiopathy. No concern for uremia related AMS, as patient on
continued dialysis without interruption, most recent session
___. Later in admission, there patient had single Hgb drop but 
not concerning for ongoing bleed as below. Patient was initially 
given increased lactulose every 2 hours. He was continued on 
home medications with rifaximin, propranolol, Bactrim, 
thiamine/folate. Held home trazodone and other sedating 
medications. CTA was ordered to assess for portosystemic shunts 
which in theory can be embolized for refractory HE. CTA 
demonstrated stable varices, and the decision to pursue 
inpatient embolization was deferred by the primary team.

# Respiratory Alkalosis
After HD on ___, was found to be somnolent and less
responsive, consistent with previous presentations of hepatic
encephalopathy. ABG showed pH 7.6 CO2
26 O2 105 HCO3 25 suggestive of resp alkalosis but on exam
without signs of tachypnea or increased respiratory effort, and
patient with SpO2 >95 on room air. Placed NG tube for lactulose 
administration. Repeat VBG suggested improved but persistent 
resp alkalosis. 

#Anemia
Patient with acute drop in H/h from 9.0/28.2--> 6.0/18.5.
Tranfused 1 U PRBCs with appropriate response. Hx of varices but
no melena or hematochezia. Patient well appearing without 
worsening encephalopathy. Repeat Hgb 7.9 unconcerning for 
ongoing bleed. Hemolysis labs unremarkable as low haptoglobin 
was expected given liver disease

CHRONIC/STABLE PROBLEMS: 
======================

# ESRD ___ HRS on HD (TThSat)
Patient continued on HD on TTS schedule during admission. Was 
continued on home Nephrocaps

# HFpEF (EtOH cardiomyopathy) - Patient appeared euvolemic, will
continue volume removal with HD prn.

# Atrial fibrillation (CHADS2VASC 2) -patient remained in normal 
sinus rhythm throughout admission. He was continued on 
propranolol given history of variceal bleeding as above. AC 
previously been deferred given history of cirrhosis and
intracranial bleeding

# Thrombocytopenia - Related to underlying cirrhosis, currently
at baseline.
- Continue to trend CBC

TRANSITIONAL ISSUES:
===================
Discharge MELD 25

[] Patient requires frequent doses of lactulose q2-3hr at home. 
Be careful about downtitrating especially soon after HD 
[] CTA demonstrated stable varices, should follow up with ___ as 
outpatient to determine whether any of these can be safely 
shunted to reduce the burden of refractory HE
[] History of Afib and intermittently with tele alarms for Afib, 
but patient should not be anticoagulated given hx of 
intracerebral hemorrhage

#CODE: Full
#CONTACT: ___ (SISTER) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 200 mg PO QHS 
2. FoLIC Acid 1 mg PO DAILY 
3. Lactulose 30 mL PO Q4H 
4. Midodrine 5 mg PO TID 
5. Nephrocaps 1 CAP PO DAILY 
6. Omeprazole 40 mg PO DAILY 
7. Rifaximin 550 mg PO BID 
8. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
9. Thiamine 100 mg PO DAILY 
10. Propranolol 10 mg PO TID 
11. TraZODone 100 mg PO QHS 

 
Discharge Medications:
1.  Lactulose 30 mL PO Q2H  
2.  Docusate Sodium 200 mg PO QHS  
3.  FoLIC Acid 1 mg PO DAILY  
4.  Midodrine 5 mg PO TID  
5.  Nephrocaps 1 CAP PO DAILY  
6.  Omeprazole 40 mg PO DAILY  
7.  Propranolol 10 mg PO TID  
8.  Rifaximin 550 mg PO BID  
9.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
10.  Thiamine 100 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
==============
Hepatic encephalopathy
Respiratory Alkalosis

Secondary diagnoses:
================
End-stage renal disease on hemodialysis
Heart failure with preserved ejection fraction–chronic diastolic 
heart failure
Atrial fibrillation
Acute on chronic normocytic anemia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
 WHY WERE YOU ADMITTED TO THE HOSPITAL?
 - You were admitted to the hospital because you were found to 
be confused.

 WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?  
 -Performed imaging and blood tests to rule out any infection.
 - We gave you medication to help with your confusion.
- You had very low blood levels and received a blood 
transfusion. 
 - You improved and were ready to leave the hospital.  

 WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
 - Please take all of your medications as prescribed and go to 
your follow up appointments with your doctors ___ below)   
 - Weigh yourself every morning, before you eat or take your 
medications. Call your doctor if your weight increases by more 
than 3 pounds  
 - Please maintain a low salt diet and monitor your fluid intake 
 
 - Seek medical attention if you have new or concerning symptoms 
or you develop  

 It was a pleasure participating in your care. We wish you the 
best!
 
 - Your ___ Care Team  
 
Followup Instructions:
___